US09260410B2
N-(4-((4-(3-(3-(tert-Butyl)-1-(p-tolyl)-1H-pyrazol-5-yl)ureido)naphthalen-1-yl)oxy)pyridin-2-yl)acetamide
To a mixture of 1-(4-(2-aminopyridin-4-yloxy)naphthalen-1-yl)-3-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)urea (40 mg, 0.08 mmol) and DIPEA (69 μL, 0.40 mmol) in THF (5.0 mL) at 0° C. under N2 was added acetyl chloride (22 μL, 0.08 mmol) and the mixture maintained at 0° C. for 30 min and then warmed to RT for 16 hr. The reaction was quenched by the addition of a solution of NH3 in MeOH (1% w/v, 2.0 mL) and after 45 min at RT the volatiles were evaporated in vacuo. The residue was subjected to purification by SCX capture and release and then by flash column chromatography (SiO2, 12 g, [5% MeOH in EtOAc] in isohexane, 0-70%, gradient elution). The impure material so obtained was subjected to re-purification by SCX capture and release and by flash column chromatography (SiO2, 12 g, [5% MeOH in EtOAc] in isohexane, 0-65%, gradient elution) to afford the title compound, Example 3, as a white solid (12 mg, 27%); Rt 2.26 min (Method 2); m/z 549 (M+H)+ (ES+). 1H NMR (400 MHz, DMSO-d6) δ: 1.29 (9H, s), 2.01 (3H, s), 2.38 (3H, s), 6.39 (1H, s), 6.63 (1H, dd), 7.31 (1H, d), 7.36 (2H, d), 7.48 (2H, d), 7.56 (1H, m), 7.61-7.66 (2H, overlapping m), 7.83 (1H, d), 7.96 (1H, d), 8.16 (1H, d), 8.19 (1H, d), 9.02 (1H, s), 9.30 (1H, s), 10.52 (1H, s).

reactant | 1-(4-(2-aminopyridin-4-yloxy)naphthalen-1-yl)-3-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)urea | 0.08 mmol, 40 mg | NC1=NC=CC(=C1)OC1=CC=C(C2=CC=CC=C12)NC(=O)NC1=CC(=NN1C1=CC=C(C=C1)C)C(C)(C)C | C30H30N6O2
reactant | DIPEA | 0.40 mmol, 69 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | acetyl chloride | 0.08 mmol, 22 μL | C(C)(=O)Cl | C2H3ClO
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | N-(4-((4-(3-(3-(tert-Butyl)-1-(p-tolyl)-1H-pyrazol-5-yl)ureido)naphthalen-1-yl)oxy)pyridin-2-yl)acetamide | C(C)(C)(C)C1=NN(C(=C1)NC(NC1=CC=C(C2=CC=CC=C12)OC1=CC(=NC=C1)NC(C)=O)=O)C1=CC=C(C=C1)C | C32H32N6O3
